US07091215B2
3-[(tert-Butoxycarbonyl)amino]-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-7-ylboric acid
After dissolving tert-butyl N-(7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl)carbamate (200 mg) in tetrahydrofuran (2 mL), the mixture was cooled to −78° C. and n-butyllithium (1.6 M; 0.66 mL) was added dropwise. The mixture was stirred for 1-hour at the same temperature, triethoxyborane (109 μL) was added and the temperature was increased to room temperature. Saturated aqueous ammonium chloride was added to the obtained reaction mixture, and extraction was performed with ethyl acetate. The obtained organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain the title compound (106 mg) as grayish white crystals.

reactant | tert-butyl N-(7-iodo-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl)carbamate | 200 mg | IC1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)SC | C13H16IN3O2S
reactant | n-butyllithium | 1.6 M, 0.66 mL | C(CCC)[Li]
reactant | triethoxyborane | 109 μL | C(C)OB(OCC)OCC | C6H15BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(tert-Butoxycarbonyl)amino]-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-7-ylboric acid | 106 mg | C(C)(C)(C)OC(=O)NC=1C(=NN2C1C=CC=C2OB(O)O)SC | C13H18BN3O5S
